US09212182B2
A sealable vial was charged vial with methyl 2-amino-5-bromobenzoate (3.63 g, 15.80 mmol), cesium carbonate (8.75 g, 26.9 mmol), Pd2(dba)3 (0.362 g, 0.395 mmol), xantphos (0.457 g, 0.790 mmol), and 4′-chloro-2-fluoro-4-iodo-5-methoxy-3′-methyl-1,1′-biphenyl (7.14 g, 18.96 mmol). The vial was sealed with septum cap and CPME (31.6 ml) was added. The mixture was heated at 100° C. for 2 h. The mixture was cooled and partitioned between water (30 mL) and EtOAc (50 mL). There was an insoluble solid that was suspended between the layers. The organic layer and the solid were collected together and the mixture was concentrated. The resulting yellow solid was taken up in DCM (100 mL) and filtered through a plug of celite. The mother liquor was concentrated to give a yellow solid that was slurried in IPA (100 mL) and collected by vacuum filtration to provide methyl 5-bromo-2-((4′-chloro-2-fluoro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)amino)benzoate (7.15 g, 14.94 mmol, 95% yield) as a yellow solid. (ESI) 476.1 (M−H)−.

reactant | methyl 2-amino-5-bromobenzoate | 15.80 mmol, 3.63 g | NC1=C(C(=O)OC)C=C(C=C1)Br | C8H8BrNO2
reactant | cesium carbonate | 26.9 mmol, 8.75 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4′-chloro-2-fluoro-4-iodo-5-methoxy-3′-methyl-1,1′-biphenyl | 18.96 mmol, 7.14 g | ClC1=C(C=C(C=C1)C1=C(C=C(C(=C1)OC)I)F)C | C14H11ClFIO
reactant | CPME | 31.6 ml | COC1CCCC1 | C6H12O
solvent | IPA | 100 mL | CC(C)O | C3H8O
catalyst | Pd2(dba)3 | 0.395 mmol, 0.362 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | xantphos | 0.790 mmol, 0.457 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | methyl 5-bromo-2-((4′-chloro-2-fluoro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)amino)benzoate | 14.94 mmol, 7.15 g, 95% yield | BrC=1C=CC(=C(C(=O)OC)C1)NC1=CC(=C(C=C1OC)C1=CC(=C(C=C1)Cl)C)F | C22H18BrClFNO3
